US07199265B2
Stannous chloride (0.46 mL) was carefully added under nitrogen gas to a ice-cooled mixture of 2-nitro-5-(2,6-diisopropylphenoxy)anisole (3.8 g), chloromethyl methyl ether (1.8 mL) and dichloromethane (5 mL). After 16 hours, the reaction mixture was concentrated and purified on column (silica gel, ethyl acetate/petroliumether, 97:3), to give 1.4 g of 3,5-diisopropyl-4-(3-methoxy-4-nitrophenoxy)benzylchloride.

reactant | 2-nitro-5-(2,6-diisopropylphenoxy)anisole | 3.8 g | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=C(C=CC=C1C(C)C)C(C)C)OC | C19H23NO4
reactant | chloromethyl methyl ether | 1.8 mL | COCCl | C2H5ClO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3,5-diisopropyl-4-(3-methoxy-4-nitrophenoxy)benzylchloride | 1.4 g | C(C)(C)C=1C=C(CCl)C=C(C1OC1=CC(=C(C=C1)[N+](=O)[O-])OC)C(C)C | C20H24ClNO4
